US05444083
(12) 3-(3,5-Difluoro-2-methoxybenzyl)-N-(3,4-dimethoxybenzyl)-4-(3,4-dimethoxyphenyl)pyrrolidine
200 ml of a solution of 17.78 g (33.8 mmol) of 3-(3,5-difluoro-2-methoxybenzyl)-N-(3,4-dimethoxybenzyl)-4-(3,4-dimethoxyphenyl)pyrrolidone in THF was dropwise added at 0° C. in a nitrogen atmosphere to 150 ml of a 1M solution of a borane/THF complex in THF. The mixture was heated under reflux for 2 hr and cooled, and 50 ml of a 6N hydrochloric acid solution was added thereto. The mixture was heated to 60° C. After stirring for 2 hr, THF was concentrated in vacuo and extracted twice with methylene chloride. The obtained organic phase was washed with a saline solution and dried over anhydrous sodium sulfate, and the solvent was distilled off in vacuo. The residue was subjected to silica gel column chromatography (ethyl acetate:n-hexane=4:1) to prepare 12.46 g (yield: 72%) of the intended product.

reactant | 3-(3,5-difluoro-2-methoxybenzyl)-N-(3,4-dimethoxybenzyl)-4-(3,4-dimethoxyphenyl)pyrrolidone | 33.8 mmol, 17.78 g | FC=1C(=C(CC2C(N(CC2C2=CC(=C(C=C2)OC)OC)CC2=CC(=C(C=C2)OC)OC)=O)C=C(C1)F)OC | C29H31F2NO6
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 3-(3,5-Difluoro-2-methoxybenzyl)-N-(3,4-dimethoxybenzyl)-4-(3,4-dimethoxyphenyl)pyrrolidine | 12.46 g, yield: 72% | FC=1C(=C(CC2CN(CC2C2=CC(=C(C=C2)OC)OC)CC2=CC(=C(C=C2)OC)OC)C=C(C1)F)OC | C29H33F2NO5
